datasets/10k_Mayr_OG.csv
SMILES Labelled
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1>>COC1=CC=C(C[C:10]2([C:20]([C:31]3=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[N:82]1[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]2([I+:11]C3=CC=CC=C3)[C:71](=[O:72])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]2=[O:92])[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[C:10]([C:11]#[N:12])([S:20]C(F)(F)F)[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:11]2=[N:10]CCC[N:12]2CC1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([N:10]1CCC[N+:12]2=[C:11]1CCCCC2)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20;12=11,12"
"C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.CC1=CC=C([P:10](C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)C=C1>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2)(C2=CC=C(C)C=C2)[CH:20]([N:21]=[P:22](C2=CC=CC=C2)(C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)C=C1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][CH+:11][C:62]23C4([Si](C)(C)C)[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[C:10]1=[C:11](\[O-:12])CCCCCCCCCC1)=[O:62].F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC[O:72][C:61]([C:10]1([CH:20](C2=CC=CC=C2)[CH-:21][S:32](F)(=[O:33])=[O:34])CCCCCCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC1(C)CCC[NH:10]1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CC1(C)CCC[NH+:10]1[CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC(C)[C@@H]1CCC[NH:10]1>>CC(C)[C@@H]1CCC[NH+:10]1[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[CH2:10][CH+:11]/[CH:62]=[CH:63]/C)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1.CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]1[CH:11]=[N+:12]([Si](C(C)C)(C(C)C)C(C)C)[CH:62]=[CH:61]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]([C:20]2([C:41]3=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)[C@@H]1C1=CC=CC=C1 10=20
